US07763731B2
3-Nitro-4-phenylsulfanyl-phenylamine
A mixture of 2-Nitro-4-chloro aniline (1.0 g, 5.79 mmol), sodium thiophenol (0.84 g, 6.4 mmol) in DMF (10 mL) was heated 2.5 h at 100° C. The mixture was cooled, diluted with ethyl acetate (100 mL) and the organic layer washed with water, 20% aqueous potassium hydroxide solution and aqueous 10% sodium chloride solution, then, dried over anhydrous sodium sulfate. The drying agent was filtered and the solvent concentrated under vacuum leaving the title compound as a red solid (0.98 g, 69%).

reactant | 2-Nitro-4-chloro aniline | 5.79 mmol, 1.0 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)Cl | C6H5ClN2O2
reactant | sodium thiophenol | 6.4 mmol, 0.84 g | C1(=CC=CC=C1)S.[Na]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-4-phenylsulfanyl-phenylamine | 0.98 g, 69% | [N+](=O)([O-])C=1C=C(C=CC1SC1=CC=CC=C1)N | C12H10N2O2S
